US06221865B1
4-Amino-2-methoxy-3′-biphenyl carboxylic acid
The title compound can be prepared by palladium catalyzed hydrogenation of 2-methoxy-4-nitro-3′-biphenyl carboxylic acid.

reactant | 2-methoxy-4-nitro-3′-biphenyl carboxylic acid | COC1=C(C=CC(=C1)[N+](=O)[O-])C1=CC(=CC=C1)C(=O)O | C14H11NO5
catalyst | palladium | [Pd] | Pd
product | 4-Amino-2-methoxy-3′-biphenyl carboxylic acid | NC1=CC(=C(C=C1)C1=CC(=CC=C1)C(=O)O)OC | C14H13NO3
